US06413938B1
5,6-Dichloro-2-ethynyl-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl)-1H-benzimidazole
2-Bromo-5,6-dichloro-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl)-1H-benzimidazole (0.43 g, 0.92 mmol), trimethylacetylene (Aldrich, 0.43 ml, 3.0 mmol), bis(triphenylphosphine)palladium(II) chloride (Aldrich, 0.015 g, 0.02 mmol), cuprous iodide (0.01 g, 0.05 mmol) and triethylamine (distilled from CaH, 30 mL) were combined and flushed with argon for 30 min. The solution was stirred at 25° C. for 1 h then warmed to 80° C. After 3 h the reaction mixture was concentrated and taken up in dichloromethane (100 mL) and extracted with 50 mL of 2% EDTA (Aldrich) twice then with 50 mL of H2O. The organic layer was dried with magnesium sulfate (anhyd), filtered, and evaporated. The crude residue was purified on a silica gel column (2.5×16 cm, 230-400 mesh) with 1:2 ethyl acetate: hexane with 0.1 % triethylamine to give the title compound (0.12 g, 0.28 mmol, 31%); MS (ES+): m/z (rel. intensity) 433 (100, M++Na); 1H NMR (DMSO-d6) δ8.12 (s, 1H, ArH), 8.00 (s, 1H, ArH), 6.21 (d, 1H, CH, J=6.1 Hz), 5.65 (apparent triplet, 1H, CH, J=6.8 Hz), 5.20 (apparent triplet, 1H, CH, J=6.5 Hz), 4.23-4.19 (m, CH, 1H), 2.10 (s, 3H, OAc), 1.98 (s, 3H, OAc), 1.53 (d, 3H, CH3, J=6.3 Hz).

reactant | 2-Bromo-5,6-dichloro-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl)-1H-benzimidazole | 0.92 mmol, 0.43 g | BrC1=NC2=C(N1[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)C)C=C(C(=C2)Cl)Cl | C16H15BrCl2N2O5
reactant | hexane | CCCCCC | C6H14
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.02 mmol, 0.015 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 30 mL | C(C)N(CC)CC | C6H15N
product | 5,6-Dichloro-2-ethynyl-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl)-1H-benzimidazole | 0.28 mmol, 0.12 g, 31% | ClC1=CC2=C(N(C(=N2)C#C)[C@H]2[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)C)C=C1Cl | C18H16Cl2N2O5
